US04719208
1,2,3,4,5,6-hexahydro-3-diethylaminoethyl-5-hydroxymethyl-6-methylazepino[4,5-b]indole
In accordance with the procedure described in example 18, the condensation of 1-chloro-2-diethylaminoethane hydrochloride with 5-hydroxymethyl-6-methylazepino[4,5-b]indole yields the product.

reactant | 1-chloro-2-diethylaminoethane hydrochloride | Cl.ClCCN(CC)CC
reactant | 5-hydroxymethyl-6-methylazepino[4,5-b]indole | OCC1=CNC=CC2=C1N(C=1C=CC=CC21)C | C14H14N2O
product | 1,2,3,4,5,6-hexahydro-3-diethylaminoethyl-5-hydroxymethyl-6-methylazepino[4,5-b]indole | C(C)N(CC)CCN1CC(C=2N(C=3C=CC=CC3C2CC1)C)CO | C20H31N3O
